US07838543B2
Step 2. N2-Methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine
The title compound was prepared according to the procedure described in General Method B, using methyl-(1-methyl-piperidin-4-yl)-(5-nitro-benzooxazol-2-yl)-amine (0.583 g, 2.01 mmol), acetic acid (8 mL), and iron (1.12 g, 20.1 mmol) to provide product (0.474 g, 91%). mass spectrum (m/e): 261.2 (M+1).

reactant | methyl-(1-methyl-piperidin-4-yl)-(5-nitro-benzooxazol-2-yl)-amine | 2.01 mmol, 0.583 g | CN(C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])C2CCN(CC2)C | C14H18N4O3
catalyst | iron | 20.1 mmol, 1.12 g | [Fe] | Fe
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | N2-Methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine | CN(C=1OC2=C(N1)C=C(C=C2)N)C2CCN(CC2)C | C14H20N4O
